US09303036B2
Preparation of Asenapine Hydrochloride Anhydrous Form II
To 105 mg of Asenapine hydrochloride dihydrate was added 2.0 ml acetonitrile and the obtained suspension was stirred for one week at room temperature, then filtered and the solid product dried in air at room temperature. The obtained sample was characterized by powder X-ray diffraction and a PXRD pattern as depicted in FIG. 3 with the most important peaks as listed in Table 4 was obtained. The H-NMR spectrum confirmed the presence of protonated Asenapine.

reactant | Asenapine | CN1CC2C=3C=CC=CC3OC=4C=CC(=CC4C2C1)Cl | C17H16ClNO
solvent | acetonitrile | 2.0 ml | C(C)#N | C2H3N
product | Asenapine Hydrochloride | CN1C[C@H]2[C@H](C1)C3=C(C=CC(=C3)Cl)OC4=CC=CC=C24.Cl | InChI=1S/C17H16ClNO.ClH/c1-19-9-14-12-4-2-3-5-16(12)20-17-7-6-11(18)8-13(17)15(14)10-19;/h2-8,14-15H,9-10H2,1H3;1H/t14-,15-;/m1./s1
